* C:\Users\dlee886\OneDrive - The University of Auckland\Documents\GitHub\ee310-team16\Phase2-Transmitter\LTSpice\Phase-2-hardware-design.asc
XU1 U1+ N001 Vcc+ Vcc- N002 LM324
XU2 N003 U2- Vcc+ Vcc- Vout LM324
V1 Vcc+ 0 5
V2 0 Vcc- 0
R1 N001 Vout 82k
R2 N003 N002 1k
R3 Vout N003 82k
C1 N002 N001 44p
V3 U1+ 0 1.75
V4 U2- 0 1.75
.include LM324.lib
.tran 0 10m 0
.backanno
.end
