* C:\Users\dcyle\Desktop\1UoA\2024\ELECT310\ee310-team16\Phase2-Transmitter\LTSpice\Phase-2-hardware-design.asc
XU1 U1+ N001 Vcc+ Vcc- N002 TLC081
XU2 N003 U2- Vcc+ Vcc- Vout TLC081
V1 Vcc+ 0 5
V2 0 Vcc- 0
R1 N001 Vout 27k
R2 N003 N002 15k
R3 Vout N003 27k
C1 N002 N001 44p
V3 U1+ 0 2.2
V4 U2- 0 2.2
C2 N002 N001 150p
.include TLC081.mod
.tran 0 10m 9.9m
.backanno
.end
